US04468517
4-Chloromethyl-2-dimethylaminomethylthiazole, hydrochloride
To a 500 ml. flask were added 260 ml. of 1,2-dichloroethane, 52.7 g. of dimethylaminothioacetamide, hydrochloride, 48.2 g. of 1,3-dichloropropanone and 63 g. of sodium bicarbonate. The mixture was stirred overnight, and was filtered. The filter cake was washed with 250 ml. of 1,2-dichloroethane, and the combined filtrates were added to a 1000 ml. flask and cooled in an ice bath. To it was added dropwise 30.7 ml. of sulfuryl chloride. The mixture was seeded with crystals of authentic product, and the mixture was allowed to warm to 30° and was stirred for 30 minutes after the addition was complete. It was then heated to 60° and stirred for 30 minutes more, and cooled to ambient temperature. It was then filtered, the filter cake was washed with 100 ml. of 1,2-dichloroethane, and it was blown dry with nitrogen. The solids were then dried under vacuum at 45° to obtain 75.3 g. of the desired product. The product was confirmed to be substantially identical to that of Example 5 by tlc analysis, using the system described above.

reactant | dimethylaminothioacetamide, hydrochloride | Cl.CN(C)CC(=S)N
reactant | 1,3-dichloropropanone | ClCC(CCl)=O | C3H4Cl2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 4-Chloromethyl-2-dimethylaminomethylthiazole, hydrochloride | Cl.ClCC=1N=C(SC1)CN(C)C | InChI=1S/C7H11ClN2S.ClH/c1-10(2)4-7-9-6(3-8)5-11-7;/h5H,3-4H2,1-2H3;1H
